US04293700
In 400 ml of benzene there are dissolved 100 g of menthol, added with 1 ml triethylamine, at refluxing and stirring for one hour there are added 55 ml of diketene and benzene is distilled-off under a reduced pressure (150 mm Hg). The remaining oily product consisting mainly of methyl ether of acetoacetic acid is dissolved in 400 ml of ethanol, added with 28 g of hexamethylenetetramine and 5 g of ammonium acetate and the reaction mixture is boiled on a water bath for 30 minutes. After cooling, the precipitated yellow substance is filtered-off and recrystallized from ethanol. There are obtained 105 g (69% of the theoretical value) of menthyl ester of 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid in the form of a bright-yellow crystalline substance having its melting temperature of from 180°-182° C.

reactant | menthol | 100 g | C1(CC(C(CC1)C(C)C)O)C | C10H20O
reactant | diketene | 55 ml | C=C1CC(=O)O1 | C4H4O2
reactant | methyl ether | COC | C2H6O
reactant | acetoacetic acid | C(CC(=O)C)(=O)O | C4H6O3
reactant | hexamethylenetetramine | 28 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | ammonium acetate | 5 g | C(C)(=O)[O-].[NH4+]
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid | CC=1NC(=C(CC1C(=O)O)C(=O)O)C | C9H11NO4
